US08349335B2
According to a preferred embodiment, the chlorin e6-protocol A comprises the steps of (a) treating chlorophyll-a obtained by the above method with the acid to eliminate Mg2+ from chlorophyll-a, thereby obtaining the precipitate of pheophytin a; (b-1) adding the acetone solvent to the precipitate of pheophytin a to obtain a solution of pheophytin a, followed by elimination of the acetone solvent; (b-2) adding ethanol to the residual pheophytin a to obtain the pheophytin a solution; and (b-3) treating the pheophytin a solution with the base to obtain chlorin e6.

reactant | chlorin e6 | CCC1=C(C=2C=C3NC(=CC4=NC(=C(C5=C(C(=C(N5)C=C1N2)C)C(=O)O)CC(=O)O)[C@H]([C@@H]4C)CCC(=O)O)C(=C3C=C)C)C | C34H36N4O6
reactant | chlorophyll-a | CCC1=C(C2=NC1=CC3=C(C4=C([N-]3)C(=C5[C@H]([C@@H](C(=N5)C=C6C(=C(C(=C2)[N-]6)C=C)C)C)CCC(=O)OC/C=C(\C)/CCC[C@H](C)CCC[C@H](C)CCCC(C)C)[C@H](C4=O)C(=O)OC)C)C.[Mg+2]
product | pheophytin a | CCC1=C2C=C3C(=C4C(=O)[C@@H](C(=C5[C@H]([C@@H](C(=N5)C=C6C(=C(C(=CC(=C1C)N2)N6)C=C)C)C)CCC(=O)OC/C=C(\C)/CCC[C@H](C)CCC[C@H](C)CCCC(C)C)C4=N3)C(=O)OC)C | C55H74N4O5
